US07417157B2
3.50 g (12.7 mmol) of (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-6-fluoro-3-propenyl-1,2,3,4,4a,9b-hexahydrodibenzofuran in THF are hydrogenated for 23 h in a hydrogen atmosphere with addition of 1.8 g of Pd/C. After completion of the uptake of hydrogen, the reaction solution is filtered and concentrated to dryness. The residue is filtered adsorptively (SiO2, toluene:n-heptane=1:1), and the beige solid obtained is recrystallised repeatedly from isopropanol at room temperature, giving (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-6-fluoro-3-propyl-1,2,3,4,4a,9b-hexahydrodibenzofuran as colourless solid (melting point 128° C.).

reactant | 7-ethoxy-6-fluoro-3-propenyl-1,2,3,4,4a,9b-hexahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)C=CC)C=C1)F | C17H21FO2
reactant | hydrogen | [H][H] | H2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.8 g | [Pd] | Pd
product | 7-ethoxy-6-fluoro-3-propyl-1,2,3,4,4a,9b-hexahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)CCC)C=C1)F | C17H23FO2
